US07468371B2
3-(2-isopropoxyethoxy)prop-1-yne
To a 60% suspension of sodium hydride in mineral oil (2.3 g, 57.6 mmol) in tetrahydrofuran (65 mL) was added 2-isopropoxyethanol (3.0 g, 28.8 mmol) dropwise at about 0 C. The mixture was stirred for about 30 min, then propargyl bromide (3.2 mL, 28.8 mmol) was added dropwise and the mixture was stirred overnight while being allowed to warm to room temperature. The reaction was quenched by addition of water and the product was extracted with diethyl ether. The combined organic extracts were dried (MgSO4), filtered and the organic solvents were carefully distilled off at atmospheric pressure. The residue was purified by flash chromatography on silica gel using diethyl ether/n-pentane (1:6) as eluent to provide Example 613. 1H NMR (500 MHz, CDCl3): δ 1.17 (d, J=6.0 Hz, 6H), 2.42 (t, J=3.0 Hz, 1H), 3.57-3.76 (m, 5H), 4.21 (d, J=3.0 Hz, 2H).

reactant | sodium hydride | [H-].[Na+]
reactant | 2-isopropoxyethanol | 28.8 mmol, 3.0 g | C(C)(C)OCCO | C5H12O2
reactant | propargyl bromide | 28.8 mmol, 3.2 mL | C(C#C)Br | C3H3Br
solvent | tetrahydrofuran | 65 mL | O1CCCC1 | C4H8O
product | 3-(2-isopropoxyethoxy)prop-1-yne | C(C)(C)OCCOCC#C | C8H14O2
